US07265126B2
Preparation of Building blocks 8 rac-1-(1-Oxo-4-phenyl-2,8-diaza-spiro [4.5]dec-8-yl)-cyclohexanecarbonitrile
To a mixture of rac-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one (8.0 g, 34.7 mmol) in AcOH (80 mL) was added cyclohexanone (3-4 g, 34.7 mmol) followed by the dropwise addition of TMSCN (10.4 g, 104.2 mmol) and the resulting mixture stirred at room temperature for 5 days. The resulting mixture was poured onto ice—sodium hydroxide (25%, 200 mL) and the resulting white solid filtered off. The solid was dissolved in DCM (50 mL) and washed with water (40 mL) and dried over sodium sulfate. Filtration and evaporation afforded the title compound (7.25 g, 62%) as a white solid after purification by silica gel chromatography eluting with DCM: MeOH (9: 1). MS: m/e=338.3 (M+H).

reactant | rac-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one | 34.7 mmol, 8.0 g | C1(=CC=CC=C1)C1CNC(C12CCNCC2)=O | C14H18N2O
reactant | cyclohexanone | 34.7 mmol, 3-4 g | C1(CCCCC1)=O | C6H10O
reactant | TMSCN | 104.2 mmol, 10.4 g | [Si](C)(C)(C)C#N | C4H9NSi
solvent | AcOH | 80 mL | CC(=O)O | C2H4O2
product | rac-1-(1-Oxo-4-phenyl-2,8-diaza-spiro [4.5]dec-8-yl)-cyclohexanecarbonitrile | 7.25 g, 62% | O=C1NCC(C12CCN(CC2)C2(CCCCC2)C#N)C2=CC=CC=C2 | C21H27N3O
